US06413951B2
Prepare O93 from O92 by treating with acetic anhydride as described for the synthesis of J62 in example 10a, and then treat O93 with sodium borohydride to provide O94 as described for the preparation of J63 in example 10b. Add t-butyldimethylsilyl chloride (16.44 g, 109.1 mmol), 4-dimethylaminopyridine (0.62 g, 5.20 mmol) and triethylamine (15.9 mL, 114.3 mmol) to a stirred solution of estr-5-ene-3β,17β-diol 17-acetate (O94, 33.1 g, 103.9 mmol, Campbell, J. A. and Babcock, J. C., 1971, U.S. Pat. No. 3,597,418) in anhydrous DMF (350 mL) under nitrogen. Stir the resultant suspension at room temperature for 3 days and then pour into vigorously stirred water (2.5 L). Filter the resultant suspension to give 3β-[[(1,1-dimethylethyl)dimethylsilyl]oxy]estr-5-en-17β-ol 17 acetate (O95) as an off-white solid.

reactant | t-butyldimethylsilyl chloride | 109.1 mmol, 16.44 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | triethylamine | 114.3 mmol, 15.9 mL | C(C)N(CC)CC | C6H15N
reactant | estr-5-ene-3β,17β-diol 17-acetate | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C[C@H](CC[C@@H]3[C@H]1CC2)O | C20H30O3
reactant | water | 2.5 L | O | H2O
catalyst | 4-dimethylaminopyridine | 5.20 mmol, 0.62 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 350 mL | CN(C)C=O | C3H7NO
product | 3β-[[(1,1-dimethylethyl)dimethylsilyl]oxy]estr-5-en-17β-ol 17 acetate | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C[C@H](CC[C@@H]3[C@H]1CC2)O[Si](C)(C)C(C)(C)C | C26H44O3Si
